US06528504B2
(S)-3-Hydroxy-1-(3,4-methylenedioxyphenethyl)pyrrolidine (281 mg, 1.19 mmol) was dissolved in dichloromethane (8 ml). Triethylamine (162 mg, 1.60 mmol) and methanesulfonyl chloride (183 mg, 1.60 mmol) were added to the obtained solution under stirring under cooling on ice. They were stirred at 0° C. for 1 hour. The reaction liquid was distributed in dichloromethane and water. The organic layer was dried, and the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane and then with a solvent mixture of dichloromethane and methanol (50:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (S)-3-methanesulfonyloxy-1-(3,4-methylenedioxyphenethyl) pyrrolidine in the form of a light yellow oil (359 mg, 97%).

reactant | (S)-3-Hydroxy-1-(3,4-methylenedioxyphenethyl)pyrrolidine | 1.19 mmol, 281 mg | O[C@@H]1CN(CC1)CCC1=CC2=C(C=C1)OCO2 | C13H17NO3
reactant | Triethylamine | 1.60 mmol, 162 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.60 mmol, 183 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (S)-3-methanesulfonyloxy-1-(3,4-methylenedioxyphenethyl) pyrrolidine | CS(=O)(=O)O[C@@H]1CN(CC1)CCC1=CC2=C(C=C1)OCO2 | C14H19NO5S
